US06689806B1
Cyclopentanecarboxylic acid (2-oxo-2,3-dihydro-1H-indol-6-yl)-amide was condensed with 5-chlorosalicylaldehyde using method B to give cyclopentanecarboxylic acid [3-(5-chloro-2-hydroxy-benzylidene)-2-oxo-2,3-dihydro-1H-indol-6-yl]-amide which was reducted using method D to give 34.4 mg (68%) cyclopentanecarboxylic acid [3-(5-chloro-2-hydroxybenzyl)-2-oxo-2,3-dihydro-1H-indol-6-yl]-amide as an off-white crystalline solid.

reactant | Cyclopentanecarboxylic acid (2-oxo-2,3-dihydro-1H-indol-6-yl)-amide | O=C1NC2=CC(=CC=C2C1)NC(=O)C1CCCC1 | C14H16N2O2
reactant | 5-chlorosalicylaldehyde | ClC1=CC=C(C(C=O)=C1)O | C7H5ClO2
product | cyclopentanecarboxylic acid [3-(5-chloro-2-hydroxy-benzylidene)-2-oxo-2,3-dihydro-1H-indol-6-yl]-amide | ClC=1C=CC(=C(C=C2C(NC3=CC(=CC=C23)NC(=O)C2CCCC2)=O)C1)O | C21H19ClN2O3
